US04112236
Step A: Preparation of 1-Chloro-4-acetoxy-4-methylnonane
To the Grignard reagent prepared from 1-bromopentane (4.8 g., 0.04 mole) and magnesium (0.96 g., 0.04 mole) in ether is added 5-chloro-2-pentanone (6.0 g., 0.04 mole). The reaction mixture is stirred at 25° C. for 1 hour and then cooled to 15° C. Acetic anhydride (6 ml., excess) is added carefully and the solution is allowed to stand for 20 hours. Water is added, and the ether layer is separated, washed with brine, and dried over sodium sulfate. Distillation affords the title compound in 4.3 g. (46%) yield, b.p. 88° C. (0.1 mm.). Anal. Calcd. for C12H23ClO2 : C, 61.39; H, 9.87. Found: C, 60.99; H, 10.19.

reactant | 1-bromopentane | 0.04 mole, 4.8 g | BrCCCCC | C5H11Br
reactant | magnesium | 0.04 mole, 0.96 g | [Mg] | Mg
reactant | 5-chloro-2-pentanone | 0.04 mole, 6.0 g | ClCCCC(C)=O | C5H9ClO
reactant | Acetic anhydride | 6 ml | C(C)(=O)OC(C)=O | C4H6O3
solvent | ether | CCOCC | C4H10O
solvent | Water | O | H2O
product | 1-Chloro-4-acetoxy-4-methylnonane | ClCCCC(CCCCC)(C)OC(C)=O | C12H23ClO2
